US06455528B1
(2) Methyl 4-Acetamidomethylbenzoate
4-Acetamidomethylbenzoic acid(4.0 g) was dissolved in 0.5% hydrochloric acid—methanol solution (100 ml). The mixture was stirred at 40° C. for 3.5 hr, and poured into ice water (300 ml) and extracted with ethyl acetate (100 ml×4). The extract was washed with saturated sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a pale-yellow solid (4.3 g). The obtained solid was crystallized from ethyl acetate (50 ml) to give the title compound (3.2 g) as pale-yellow white crystals, m.p.=110-111° C.

reactant | 4-Acetamidomethylbenzoic acid | 4.0 g | C(C)(=O)NCC1=CC=C(C(=O)O)C=C1 | C10H11NO3
reactant | hydrochloric acid methanol | 100 ml | Cl.CO
product | Methyl 4-Acetamidomethylbenzoate | 4.3 g | C(C)(=O)NCC1=CC=C(C(=O)OC)C=C1 | C11H13NO3
